US05424268
A solution of benzo-1,2,3-triazin-4-one (3.8835 g) in dry pyridine (40 mL) was stirred, and to this solution was added, over a period of 30 seconds, freshly prepared 4-vinylbenzoyl chloride (4.3945 g, prepared as described in Hirao et al., Macromolecules, 21, 561 (1988)). The resultant reaction mixture was stirred at room temperature for 1.5 hours, then poured into an ice/water mixture (300 mL). The colorless precipitate which formed was filtered off, washed with water on the frit and dried. The dried product was then dissolved in methylene chloride (75 mL) and the resultant solution was washed with water, dried over anhydrous magnesium sulfate and passed through a short column of silica gel. The solution was then concentrated on a rotary evaporator to give the desired 3-(vinylbenzoyl)benzotriazinone product as a colorless solid (6.12 g) having melting point 120° C. The identity of the product was confirmed by proton nuclear magnetic resonance (NMR) and infra-red spectroscopy, the spectra being as follows:

reactant | benzo-1,2,3-triazin-4-one | 3.8835 g | N1=NNC(C2=C1C=CC=C2)=O | C7H5N3O
reactant | 4-vinylbenzoyl chloride | 4.3945 g | C(=C)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 3-(vinylbenzoyl)benzotriazinone | 6.12 g | C(=C)C1=C(C(=O)N2N=NC3=C(C2=O)C=CC=C3)C=CC=C1 | C16H11N3O2
